US04220654
A. Ethyl 3-(1-benzyl-5-methyl-4-imidazolyl)-2-propenoate
A suspension of 50% sodium hydride in mineral oil (1.03 g., 0.0215 mole) in dry 1,2-dimethoxyethane (50 ml.) is cooled to 10° C. and triethyl phosphonoacetate (4.82 g., 0.0215 mole) is added dropwise over 5 minutes under nitrogen atmosphere. The mixture is stirred at 10° to 20° C. for 3/4 hour. Then 1-benzyl-5-methyl-4-imidazolecarboxaldehyde (4.1 g., 0.02 mole) is added over 5 minutes and the mixture is stirred at room temperature for 13/4 hours. The reaction mixture is cooled in an ice bath and is diluted with 100 ml. of ether and 50 ml. of ice water. The organic layer is separated and extracted with cold 3 N hydrochloric acid (50 ml.). The acidic extract is neutralized with sodium bicarbonate and the product is extracted into ether. The ether extract is dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The product is an amber oil which solidifies to a yellow solid (5.4 g.). The crude ethyl 3-(1-benzyl-5-methyl-4-imidazolyl)-2-propenoate melts at 169°-180° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-benzyl-5-methyl-4-imidazolecarboxaldehyde | 0.02 mole, 4.1 g | C(C1=CC=CC=C1)N1C=NC(=C1C)C=O | C12H12N2O
reactant | ether | CCOCC | C4H10O
reactant | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | Ethyl 3-(1-benzyl-5-methyl-4-imidazolyl)-2-propenoate | C(C1=CC=CC=C1)N1C=NC(=C1C)C=CC(=O)OCC | C16H18N2O2
